US09126931B2
Under nitrogen atmosphere, to the MeCN (8 ml) suspension of 9-bromo-8-(4-cyclobutyl-piperazin-1-yl)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound F4-10, 200 mg, 0.397 mmol), ethynyltriisopropylsilane (268 mg, 3.0 eq.), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (Xphos) (39 mg, 0.2 eq.), Pd(CH3CN)2Cl2 (11 mg, 0.1 eq.) and cesium carbonate (518 mg, 4.0 eq.) were added and the mixture was stirred and heated under reflux condition until the reaction is completed. Upon the completion of the reaction, distilled water was added to the reaction solution, which was then extracted with ethyl acetate. The organic layer was washed with brine and dried over sodium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/methanol) to obtain 8-(4-cyclobutyl-piperazin-1-yl)-6,6-dimethyl-11-oxo-9-[(triisopropylsilanyl)-ethynyl]-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (179 mg, 74%).

reactant | 9-bromo-8-(4-cyclobutyl-piperazin-1-yl)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.397 mmol, 200 mg | BrC1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1N1CCN(CC1)C1CCC1 | C27H27BrN4O
reactant | ethynyltriisopropylsilane | 268 mg, 3.0 eq. | C(#C)[Si](C(C)C)(C(C)C)C(C)C | C11H22Si
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 39 mg, 0.2 eq. | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 518 mg, 4.0 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | MeCN | 8 ml | CC#N | C2H3N
product | 8-(4-cyclobutyl-piperazin-1-yl)-6,6-dimethyl-11-oxo-9-[(triisopropylsilanyl)-ethynyl]-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 179 mg, 74% | C1(CCC1)N1CCN(CC1)C=1C(=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1)C#C[Si](C(C)C)(C(C)C)C(C)C | C38H48N4OSi
